US08580785B2
a) Preparation of 5-Methoxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
A solution of 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (1.5 g, 4.744 mmol) in methylene chloride is treated with N,N,N′,N′-Tetramethyl-1,8-naphthalendiamine (3.05 g, 14.232 mmol) and Trimethyloxonium-tetrafluorborate (2.11 g, 14.232 mmol) at 0-5° C. under argon. The reaction mixture is allowed to warm to room temperature with stirring. The reaction is complete after 2.5 hr as shown by TLC analysis. The reaction mixture is diluted with methylene chloride, and then washed successively with 2N aqueous hydrochloric acids, water, and brine. The organic phase is dried over anhydrous sodium sulphate, filtered, and concentrated in vacuo. The residue (2.9 g) is purified by flash column chromatography, eluting with 3:1 hexane:ethyl acetate. This gives the title compound (1.2 g, 76%) as yellow crystals.

reactant | 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 4.744 mmol, 1.5 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)O)[N+](=O)[O-] | C12H7F3N2O5
reactant | N,N,N′,N′-Tetramethyl-1,8-naphthalendiamine | 14.232 mmol, 3.05 g | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | Trimethyloxonium tetrafluorborate | 14.232 mmol, 2.11 g | C[O+](C)C.F[B-](F)(F)F
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 1.2 g, 76% | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)OC)[N+](=O)[O-] | C13H9F3N2O5
